US06861525B2
Slurry two grams (9.42 mmoles) of 6-methyl-2-(4-methylphenyl)imidazo[1,2-a]pyridine in 50 ml of toluene and add 1.25 grams (7.26 mmole) of N,N-dimethylglyoxylamide hemi hydrate as a solid. Heat the mixture to 85° C. and collect water through the azeotrope. A solution gradually forms and the completion of the reaction can be followed by silica gel TLC (ethyl acetate). When complete, cool the solution and add 20 ml of hexane. Filter off the white solid that forms. Evaporate the solvent and crystallize the product by addition of hot hexane to produce 2.5 grams (85%) of 6-methyl-N,N-dimethyl-2-(4-methylphenyl)-α-hydroxyimidazo[1,2-a]pyridine-3-acetamide.

reactant | 6-methyl-2-(4-methylphenyl)imidazo[1,2-a]pyridine | 9.42 mmoles, two grams | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C | C15H14N2
reactant | N,N-dimethylglyoxylamide hemi hydrate | 7.26 mmole, 1.25 grams | O.CN(C(C=O)=O)C.CN(C(C=O)=O)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | 20 ml | CCCCCC | C6H14
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-methyl-N,N-dimethyl-2-(4-methylphenyl)-α-hydroxyimidazo[1,2-a]pyridine-3-acetamide | 2.5 grams, 85% | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)C(C(=O)N(C)C)O | C19H21N3O2
